US05808038
1,4-Bis(benzyltriazeno)butane
A solution of 1.40 g (10 mmoles) of 1,4-diazidobutane, in 10 ml. of THF and chilled to -45° C., was treated dropwise with 15 ml of 2.0M benzylmagnesium chloride in THF (30 mmoles). The reaction mixture was magnetically stirred overnight at room temperature. The solvent was removed under vacuum and the residue was dissolved in 200 ml. of diethylether and washed with 30 ml. of ammonium buffer (50 g. ammonium chloride, 178 ml. of 10% ammonium hydroxide and 272 ml. of water), followed by 2×30 ml of water. The solution was dried over sodium sulfate and concentrated on a rotary evaporator and dried under high vacuum at room temperature. The crude product was recrystallized from diethylether in the -20° freezer to produce 2.6 g. of white crystals m.p. 71°-74° C. The nmr and mass spectra were fully consistent with the structure.

reactant | 1,4-diazidobutane | 10 mmoles, 1.40 g | N(=[N+]=[N-])CCCCN=[N+]=[N-] | C4H8N6
reactant | benzylmagnesium chloride | 2.0M, 15 ml | C(C1=CC=CC=C1)[Mg]Cl
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 30 mmoles | C1CCOC1 | C4H8O
product | 1,4-Bis(benzyltriazeno)butane | C(C1=CC=CC=C1)NN=NCCCCN=NNCC1=CC=CC=C1 | C18H24N6
